* C:\Users\gavin\Documents\1Projects\Personal-Projects\oscillator_amp_test.asc
* Generated by LTspice 24.1.9 for Windows.
Q1 out N005 N006 0 2N2222
R1 N006 0 750
R3 N003 out 1.75k
R4 N005 0 14.83k
R5 N001 N005 33.4k
L2 N001 N003 1m
C4 N004 NC_01 1n
C5 N006 0 1µ
X§U1 N004 N002 Vpos Vgnd N002 level2 Avol=1Meg GBW=10Meg Slew=10Meg Ilimit=25m Rail=0 Vos=0 En=0 Enk=0 In=0 Ink=0 Rin=500Meg
V1 N001 0 5
.model NPN NPN
.model PNP PNP
.lib C:\Users\gavin\AppData\Local\LTspice\lib\cmp\standard.bjt
.tran 10ms uic
.lib UniversalOpAmp2.lib
.backanno
.end
